US07098342B2
A mixture of trityl candesartan cilexetil (20 g, 23.45 mmol), methanol (200 ml), and water (1 ml) was gently refluxed for about 16–17 h. The reaction progress was monitored by HPLC. The solution volume was reduced by evaporation under reduced pressure (30 mbar) at a temperature of 55° C. to 60° C. to obtain viscous oil of candesartan cilexetil as a residue.

reactant | trityl candesartan cilexetil | 23.45 mmol, 20 g | CCOC1=NC2=CC=CC(=C2N1CC3=CC=C(C=C3)C4=CC=CC=C4C5=NN=NN5C(C6=CC=CC=C6)(C7=CC=CC=C7)C8=CC=CC=C8)C(=O)OC(C)OC(=O)OC9CCCCC9 | C52H48N6O6
reactant | methanol | 200 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
product | candesartan cilexetil | CCOC1=NC=2C=CC=C(C2N1CC=3C=CC(=CC3)C=4C=CC=CC4C5=NNN=N5)C(=O)OC(C)OC(=O)OC6CCCCC6 | C33H34N6O6
